US08604069B2
(A-75-17) tert-Butyl 4-(2-chloro-4-methylphenylcarbamoyl)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}butanoate
Mono-tert-butyl 3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}glutarate (150 mg) and DMF (1.5 mL) were mixed. To the mixture were added HOBt.H2O (63.5 mg), WSC.HCl (79.6 mg) and 2-chloro-4-methylphenylamine (0.0512 mL). The mixture was stirred at RT overnight. To the reaction mixture was added ethyl acetate. The mixture was washed with aqueous 10 w/v % citric acid, water, saturated aqueous sodium bicarbonate and brine, then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by preparative chromatography (Eluent: ethyl acetate/hexane=1/6) to give the title compound (122 mg).

reactant | Mono-tert-butyl 3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}glutarate | 150 mg | C1(CC1)C=1C(=NOC1C1CC(C1)CC(CC)CC)C(CC(=O)OC(C)(C)C)CC(=O)[O-]
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 79.6 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-chloro-4-methylphenylamine | 0.0512 mL | ClC1=C(C=CC(=C1)C)N | C7H8ClN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | H2O | 63.5 mg | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(2-chloro-4-methylphenylcarbamoyl)-3-{4-cyclopropyl-5-[3-(2-ethylbutyl)cyclobutyl]isoxazol-3-yl}butanoate | 122 mg | ClC1=C(C=CC(=C1)C)NC(=O)CC(CC(=O)OC(C)(C)C)C1=NOC(=C1C1CC1)C1CC(C1)CC(CC)CC | C32H45ClN2O4
